US06350907B1
A solution of (2R, 4E)-N-{(1S)-1-[(benzyloxy)carbonyl]-2,2-dimethylpropyl}-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-5-[(3′-methoxy-2-methylbiphen-4-yl)propyl]pent-4-enamide (534 mg, 0.87 mmol) in ethanol (75 mL) was hydrogenated over 10% palladium on charcoal (50 mg) at 3 bar and 20° C. for 5.75 h. The mixture was filtered through Arbocel filter aid, concentrated under reduced pressure and azeotroped with ethyl acetate to give (2R)-N-[(1s)-1-(carboxy)-2,2-dimethylpropyl]-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-5-[(3′-methoxy-2-methylbiphen-4-yl)propyl]pentanamide (384 mg, 61%), as a white solid, which was used for Examples 30 and 31 without purification.

reactant | (2R, 4E)-N-{(1S)-1-[(benzyloxy)carbonyl]-2,2-dimethylpropyl}-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-5-[(3′-methoxy-2-methylbiphen-4-yl)propyl]pent-4-enamide | 0.87 mmol, 534 mg | C(C1=CC=CC=C1)OC(=O)[C@H](C(C)(C)C)NC([C@H](C\C=C\CCCC1=CC=C(C(=C1)C)C1=CC(=CC=C1)OC)[C@@H]1OC(OC1=O)(C)C)=O | C40H49NO7
solvent | ethanol | 75 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | (2R)-N-[(1s)-1-(carboxy)-2,2-dimethylpropyl]-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-5-[(3′-methoxy-2-methylbiphen-4-yl)propyl]pentanamide | 384 mg, 61% | C(=O)(O)[C@H](C(C)(C)C)NC([C@H](CCCCCCC1=CC=C(C(=C1)C)C1=CC(=CC=C1)OC)[C@@H]1OC(OC1=O)(C)C)=O | C33H45NO7
